US06281219B1
4-Chloro-6-(N-methyl-3-trifluoromethylanilino)-pyrimidine (0.30 g, 0.001 mol.) and sodium carbonate (0.28 g, 0.003 mol.) in DMF are stirred for 10 minutes. m-Trifluoro-methylphenol (0.16 g, 0.001 mol) is added and the mixture is heated to 60° C. for 12 hours. The mixture is then cooled and poured into water. The product is extracted into ethyl acetate, washed with 10% sodium hydroxide, 10% hydrochloric acid, and 5% potassium carbonate, dried over Na2SO4, filtered, and is concentrated under reduced pressure. 6-(N-methyl-3-trifluoromethylanilino)-4-(3-trifluoromethyl-phenoxy)pyrimidine (0.16 g) obtained by chromatography as a white solid. M.p. 118-119° C.

reactant | 4-Chloro-6-(N-methyl-3-trifluoromethylanilino)-pyrimidine | 0.001 mol, 0.30 g | ClC1=NC=NC(=C1)N(C1=CC(=CC=C1)C(F)(F)F)C | C12H9ClF3N3
reactant | sodium carbonate | 0.003 mol, 0.28 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(N-methyl-3-trifluoromethylanilino)-4-(3-trifluoromethyl-phenoxy)pyrimidine | 0.16 g | CN(C1=CC(=CC=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC(=CC=C1)C(F)(F)F | C19H13F6N3O
